US07960369B2
3-(4-((2′-hydroxybiphenyl-3-yl)methoxy)phenyl)propanoic acid
The title compound was synthesized in the same manner as in Example 272 from methyl 3-[4-[(3-bromobenzyl)oxy]phenyl]propanoate and 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol. colorless crystals (yield 33%). MS (APCI−): 347 (M−H).

reactant | methyl 3-[4-[(3-bromobenzyl)oxy]phenyl]propanoate | BrC=1C=C(COC2=CC=C(C=C2)CCC(=O)OC)C=CC1 | C17H17BrO3
reactant | 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | CC1(OB(OC1(C)C)C1=C(C=CC=C1)O)C | C12H17BO3
product | 3-(4-((2′-hydroxybiphenyl-3-yl)methoxy)phenyl)propanoic acid | OC1=C(C=CC=C1)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)O | C22H20O4
